US05635527
The same method as in Example 18 was employed. That is, 5-cyano-2-benzofurancarboxylic acid (749 mg, 4.00 mmol) and t-butyl trans-(4-aminocyclohexyloxy)acetate (917 mg, 4.00 mmol) were condensed to give 1.24 g of t-butyl trans-[4-[(5-cyano-2-benzofuranyl)carbonylamino]cyclohexyloxy]acetate as a colorless solid (78%).

reactant | 5-cyano-2-benzofurancarboxylic acid | 4.00 mmol, 749 mg | C(#N)C=1C=CC2=C(C=C(O2)C(=O)O)C1 | C10H5NO3
reactant | t-butyl trans-(4-aminocyclohexyloxy)acetate | 4.00 mmol, 917 mg | N[C@@H]1CC[C@H](CC1)OCC(=O)OC(C)(C)C | C12H23NO3
product | t-butyl trans-[4-[(5-cyano-2-benzofuranyl)carbonylamino]cyclohexyloxy]acetate | 1.24 g, 78% | C(#N)C=1C=CC2=C(C=C(O2)C(=O)N[C@@H]2CC[C@H](CC2)OCC(=O)OC(C)(C)C)C1 | C22H26N2O5
